US05011993
2-Chloro-1-[3-[[(1,1-dimethylethyl)imino]methyl]-4-hydroxyphenyl]ethanone (10 g) is suspended in 2-propanol (60 ml) with stirring at room temperature under an inert atmosphere. This slurry is treated with 1,1-dimethylethanamine (16.4 ml) and heated at reflux for 1 hour then treated with a mixture of 12M hydrochloric acid (13.0 ml) and 2-propanol (20 ml). The reaction mixture is allowed to cool to room temperature and stir for an additional 18 hours. Filtration of the reaction mixture affords (6.2 g) of 5-[[(1,1-dimethylethyl) amino]acetyl]-2-hydroxybenzaldehyde hydrochloride after washing with diethylether (50 ml) and drying in vacuo at 50°.

reactant | 2-Chloro-1-[3-[[(1,1-dimethylethyl)imino]methyl]-4-hydroxyphenyl]ethanone | 10 g | ClCC(=O)C1=CC(=C(C=C1)O)C=NC(C)(C)C | C13H16ClNO2
reactant | 1,1-dimethylethanamine | 16.4 ml | CC(C)(N)C | C4H11N
reactant | hydrochloric acid | 12M, 13.0 ml | Cl | ClH
reactant | 2-propanol | 60 ml | CC(C)O | C3H8O
reactant | 2-propanol | 20 ml | CC(C)O | C3H8O
product | 5-[[(1,1-dimethylethyl) amino]acetyl]-2-hydroxybenzaldehyde hydrochloride | 6.2 g | Cl.CC(C)(C)NCC(=O)C=1C=CC(=C(C=O)C1)O | InChI=1S/C13H17NO3.ClH/c1-13(2,3)14-7-12(17)9-4-5-11(16)10(6-9)8-15;/h4-6,8,14,16H,7H2,1-3H3;1H
